US07105544B2
1-(2,4-DICHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPROPANECARBOXAMIDE
Example 41 was prepared from 1-(2,4-dichlorophenyl)cyclopropanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.67 (s, 1H), 7.49 (s, 1H), 7.44 (d, 1H, J=2.0 Hz), 7.35 (s, 1H), 7.28–7.19 (m, 3H), 6.92 (d, 1H, J=7.6 Hz), 5.69–5.62 (m, 1H), 3.26 (q, 2H, J=6.7 Hz), 2.89–2.82 (m, 2H), 2.54 (quintet, 1H, J=6.7 Hz), 2.47–2.37 (m, 1H), 2.32–2.26 (m, 3H), 1.97–1.88 (m, 2H), 1.79–1.69 (m, 4H), 1.66–1.56 (m, 4H), 1.24 (d, 6H, J=6.7 Hz), 1.05–1.01 (m, 1H); ESMS m/e: 516.2 (M+H)+; Anal. Calc. for C28H35Cl2N3O2.0.048 CHCl3: C, 64.51; H, 6.76; N, 8.05. Found: C, 64.51; H, 6.60; N, 8.15.

reactant | 1-(2,4-dichlorophenyl)cyclopropanecarboxylic acid | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=O)O | C10H8Cl2O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-(2,4-DICHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPROPANECARBOXAMIDE | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O | C28H35Cl2N3O2
